US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1189)
In a similar manner to that described in Example 133, (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)piperidine (1.32 g) was treated with hydrogen chloride. The crude product was purified by chromatography on silica gel using a mixture of methanol and dichloromethane (1:99 to 10:90) as the eluent to afford the title compound as a pale yellow amorphous solid (1.44 g, yield: 92%).

reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)piperidine | 1.32 g | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=NN(C1)CCCCC(=O)OCC | C28H35FN4O4S
reactant | hydrogen chloride | Cl | ClH
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[4-(ethoxycarbonyl)butyl]-1H-1,2,3-triazol-4-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 1.44 g, yield: 92% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(C1)CCCCC(=O)OCC)=O | InChI=1S/C26H33FN4O3S.ClH/c1-2-34-24(32)9-5-6-13-31-17-20(28-29-31)15-19-16-30(14-12-23(19)35)25(26(33)18-10-11-18)21-7-3-4-8-22(21)27;/h3-4,7-8,15,17-18,23,25,35H,2,5-6,9-14,16H2,1H3;1H/b19-15+;
